US06835731B2
Preparation of Pyridine-2-carboxylic Acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide:
Using General procedure H: Reaction of 8-amino-5,6,7,8-tetrahydroquinoline (148 mg, 1.00 mmol) with methanesulfonic acid 4-{[(pyridine-2-carbonyl)-amino]-methyl}-benzyl ester (214 mg, 0.67 mmol) for 3 h at room temperature followed by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 48:1:1) gave AMD9397 (81 mg, 33%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.72-1.83 (m, 2H), 2 00-2.06 (m, 1H), 2.16-2.20 (m, 1H), 2.75-2.83 (m, 2H), 3.82-3.84 (m, 1H), 3.88 (d, 1H), J=13.2 Hz), 3.98 (d, 1H, J=12.9 Hz), 4.65 (d, 2H, J=6.0 Hz), 7.05-7.06 (m, 1H), 7.32-7.42 (m, 6H), 7.85 (ddd, 1H, J=7.8, 7.8, 1.8 Hz), 8.23 (d, 1H, J=7.8 Hz), 8.34 (br s, 1H), 8.37 (d, 1H, J=3.3 Hz), 8.52 (d, 1H, J=3.9 Hz). 13C NMR (75.5 MHz, CDCl3) δ 20.05, 29.00, 29.24, 43.68, 51.85, 57.85, 122.19, 122.70, 126.56, 128.37 (2C), 129.01 (2C), 132.83, 137.07, 137.23, 137.73, 140.41, 147.20, 148.46, 150.23, 157.82, 164.57. ES-MS m/z 373 (M+H). Anal. Calcd. for C23 H24N4O•0.3 H2O: C, 73.11; H, 6.56; N, 14.83. Found: C, 72.98; H, 6.58; N, 14.63.

reactant | 8-amino-5,6,7,8-tetrahydroquinoline | 1.00 mmol, 148 mg | NC1CCCC=2C=CC=NC12 | C9H12N2
reactant | methanesulfonic acid 4-{[(pyridine-2-carbonyl)-amino]-methyl}-benzyl ester | 0.67 mmol, 214 mg | N1=C(C=CC=C1)C(=O)NCC1=CC=C(COS(=O)(=O)C)C=C1 | C15H16N2O4S
solvent | H2O | O | H2O
product | Pyridine-2-carboxylic Acid 4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzylamide | N1=CC=CC=2CCCC(C12)NCC1=CC=C(CNC(=O)C2=NC=CC=C2)C=C1 | C23H24N4O
